US08114874B2
(R)-1-(4-Amino-2-(trifluoromethy)benzyl)-N,N-dimethylpyrrolidin-3-amine:
To a solution of (R)-N,N-dimethyl-1-(4-nitro-2-(trifluoromethyl)benzyl)pyrrolidin-3-amine (1.20 g, 3.79 mmol) in 20 mL of wet EtOH was added 0.26 g of Pd/C (10% Pd on C) and the mixture shaken in a Parr apparatus (pressure reaction vessel purged thoroughly with H2 and pressure regulated at 45 psi throughout) for 2-3 h. The reaction mixture was filtered through a small pad of celite, washed with EtOAc, and the combined organics concentrated to provide a quantitative yield of a light yellow oil. This material was used directly in the next step.

reactant | (R)-N,N-dimethyl-1-(4-nitro-2-(trifluoromethyl)benzyl)pyrrolidin-3-amine | 3.79 mmol, 1.20 g | CN([C@H]1CN(CC1)CC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)C | C14H18F3N3O2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 0.26 g | [Pd] | Pd
product | (R)-1-(4-Amino-2-(trifluoromethy)benzyl)-N,N-dimethylpyrrolidin-3-amine | quantitative yield | NC1=CC(=C(CN2C[C@@H](CC2)N(C)C)C=C1)C(F)(F)F | C14H20F3N3
